US05066658
To a solution of 9-decenyl isocyanate, prepared as in Example 18 above from 10.8 ml of 10-undecenoyl chloride in 1,2-dichloroethane (150 ml) at room temperature was added benzyloxyamine (7.2 g). After 20 minutes, the mixture was evaporated, hexane (50 ml) was added, and the mixture cooled to 0° C. The resulting solids were collected by filtration, to provide N-(9-decenyl)-N'-benzyloxyurea as a white solid (7.14 g, mp 53°-55° C.). To a stirred slurry of this urea (3.50 g, 11.65 mmol) in DMF (35 ml) at room temperature under nitrogen was added sodium hydride (490 mg of a 60% dispersion in oil). After one hour, 1,3-dibromopropane (1.45 ml) was added, and the reaction was stirred for two hours. The mixture was poured into 1% aqueous HCl (200 ml), and extracted twice with ether. The combined extracts were washed with water, dried (MgSO4), filtered and evaporated. Purification by chromatography on silica gave 3-decyl-1-benzyloxy-3,4,5,6-tetrahydro-lH-pyrimidin-2-one as a colorless oil (1.92 g, 48% yield). Hydrogenolysis as in Example 2 above provided the title compound as a light magenta solid, after recrystallization from carbon tetrachloride, mp 45°-46° C.

reactant | 9-decenyl isocyanate | C(CCCCCCCC=C)N=C=O | C11H19NO
reactant | 10-undecenoyl chloride | 10.8 ml | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
reactant | benzyloxyamine | 7.2 g | C(C1=CC=CC=C1)ON | C7H9NO
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | N-(9-decenyl)-N'-benzyloxyurea | 7.14 g | C(CCCCCCCC=C)NC(=O)NOCC1=CC=CC=C1 | C18H28N2O2
